US06797723B1
Preparation of 2-{3-[3-(2-Ethyl-5-hydroxy-4-thiazol-4-yl-phenoxy)propoxy]-2-propyl-phenoxy}benzoic acid.
A mixture of 2-(3-{3-[5-benzyloxy-4-(2-chloroacetyl)-2-ethylphenoxy)propoxy]-2-propylphenoxy}benzoic acid methyl ester (500 mg, 0.792 mmol), thioformamide (20 mL, 8.0 mmol), and magnesium carbonate in dioxane (10 mL) was heated at reflux for 2 h. The mixture was cooled to room temperature and diluted with diethyl ether and 0.2 M sodium hydroxide solution. The organic layer was separated, washed with saturated sodium chloride solution, dried (sodium sulfate), filtered, and concentrated in vacuo. Chromatography (silica gel, 10% ethyl acetate/90% hexane) of the residue provided 254 mg (50%) of the title compound as a colorless oil. 1H NMR (CDCl3) δ 8.91 (s, 1H), 8.11 (s, 1H), 7.87 (dd, J=8, 1 Hz, 1H), 7.84 (d, J=1 Hz, 1H), 7.40 (m, 6H), 7.08 (m, 2H), 6.80 (d, J=8 Hz, 1H), 6.68 (d, J=8 Hz, 1H), 6.62 (s, 1H), 6.43 (d, J=8 Hz, 1H), 5.16 (s, 2H), 4.21 (t, J=6 Hz, 4H), 3.83 (s, 3H), 2.68 (m, 4H), 2.32 (quintet, J=6 Hz, 2H), 1.56 (hextet, J=8 Hz, 2H), 1.21 Ct, J=7 Hz, 3H), 0.90 (t, J=7 Hz, 3H); TOF MS ES+ exact mass calculated for C38H40NO6S (p+1): m/z=638.2576. Found: 638.2579. IR (CHCl3, cm−1) 2964, 1719, 1563, 1461.

reactant | 2-(3-{3-[5-benzyloxy-4-(2-chloroacetyl)-2-ethylphenoxy)propoxy]-2-propylphenoxy}benzoic acid methyl ester | 0.792 mmol, 500 mg | COC(C1=C(C=CC=C1)OC1=C(C(=CC=C1)OCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(CCl)=O)CC)CCC)=O | C37H39ClO7
reactant | thioformamide | 8.0 mmol, 20 mL | C(=S)N | CH3NS
reactant | magnesium carbonate | C([O-])([O-])=O.[Mg+2]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | sodium hydroxide | 0.2 M | [OH-].[Na+]
product | 2-{3-[3-(2-Ethyl-5-hydroxy-4-thiazol-4-yl-phenoxy)propoxy]-2-propyl-phenoxy}benzoic acid | 254 mg, 50% | C(C)C1=C(OCCCOC=2C(=C(OC3=C(C(=O)O)C=CC=C3)C=CC2)CCC)C=C(C(=C1)C=1N=CSC1)O | C30H31NO6S
